US07186714B2
2-(4-Fluorophenyl)-8-nitroimidazo[1,2-α]pyridine (2 g, 7.8 mmol) was added to acetic anhydride (15 mL). To this mixture was added a catalytic amount of concentrated sulfuric acid and the reaction mixture was heated to reflux for 1 hour. The resulting mixture was concentrated to a slurry, neutralized by addition of saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic phase was dried (magnesium sulfate), filtered and concentrated to a solid. This solid was purified by silica gel chromatography (1:1 ethyl acetate:hexane) to give 1.3 g (55%) of 1-[2-(4-fluorophenyl)-8-nitroimidazo[1,2-α]pyridin-3-yl]ethanone as a brown solid. 1H NMR (DMSO-d6): δ 9.93 (d, 1H), 8.62 (d, 1H), 7.78 (q, 2H), 7.46 (m, 3H), 2.20 (s, 3H); MS m/z 300 (M+1).

reactant | 2-(4-Fluorophenyl)-8-nitroimidazo[1,2-α]pyridine | 7.8 mmol, 2 g | FC1=CC=C(C=C1)C=1N=C2N(C=CC=C2[N+](=O)[O-])C1 | C13H8FN3O2
reactant | acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-[2-(4-fluorophenyl)-8-nitroimidazo[1,2-α]pyridin-3-yl]ethanone | 1.3 g, 55% | FC1=CC=C(C=C1)C=1N=C2N(C=CC=C2[N+](=O)[O-])C1C(C)=O | C15H10FN3O3
